US06376491B1
4-Allyloxy-3-methyl-benzofuran-2-carboxylic acid amide (3370 mg) in tetrahydrofuran (60 ml) was treated with sodium bicarbonate (5.58 g) and ethyl bromopyruvate (2.20 ml) followed by trifluoroacetic anhydride (5.63 ml) to give 2-(4-allyloxy-3-methyl-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester as a white solid [2443 mg, EI-MS: m/z 327 (M+)] as mentioned in Example 77.

reactant | 4-Allyloxy-3-methyl-benzofuran-2-carboxylic acid amide | 3370 mg | C(C=C)OC1=CC=CC2=C1C(=C(O2)C(=O)N)C | C13H13NO3
reactant | sodium bicarbonate | 5.58 g | C([O-])(O)=O.[Na+]
reactant | ethyl bromopyruvate | 2.20 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | trifluoroacetic anhydride | 5.63 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(4-allyloxy-3-methyl-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(OC1)C=1OC2=C(C1C)C(=CC=C2)OCC=C | C18H17NO5
